US05068333
3-Bromo-5-chloropyridin-2-one
To a cooled (0° C.) solution of 2-amino-3-bromo-5-chloropyridine (100 g, 0.482 mol) in water (815 mL) and concentrated HCl (130 mL) was added a solution of sodium nitrite (33.26 g, 0.482 mol) in water (272 mL). The resulting suspension was allowed to warm to room temperature and stir for 18 hours, at which point the solids were filtered, washed with carbon tetrachloride (2×50 mL), and dried in a vacuum oven (40° C.) to yield 75.1 g (74.8%) of gray-yellow solid, m.p. 170-173° C.: IR(mineral oil (Nujol (trademark)) 3111, 3041, 2947, 2919, 2850, 2722, 1814, 1696, 1663, 1643, 1585, 1527, 1462, 1377, 1302, 1234, 1171, 1153, 1123, 1106, 1040, 1031, 917, 896, 876, 839, 747, 726, 644, 635, 561, 539, 523, 410, 251, 235, 225, 220 cm-1 ; 1H NMR (300 MHz, D6 -DMSO) δ 7.72 (d, 1H, J=2.2 Hz), 8.08 (d, 1H, J=2.2 Hz), 12.41 (br s, 1H); 13C NMR (DMSO) δ 110.88, 115.35, 134.08, 142.64, 157.56; exact mass calculated for C5H3NBrClO=206.9086. High resolution mass spec. 206.9093.

reactant | 2-amino-3-bromo-5-chloropyridine | 0.482 mol, 100 g | NC1=NC=C(C=C1Br)Cl | C5H4BrClN2
reactant | sodium nitrite | 0.482 mol, 33.26 g | N(=O)[O-].[Na+]
solvent | water | 815 mL | O | H2O
solvent | HCl | 130 mL | Cl | ClH
solvent | water | 272 mL | O | H2O
product | 3-Bromo-5-chloropyridin-2-one | 75.1 g, 74.8% | BrC=1C(NC=C(C1)Cl)=O | C5H3BrClNO
